US05397798
N-[2-(1H-Imidazol-2-yl)ethyl]-2-[[4-(trifluoromethyl)-benzoyl]amino]benzamide
The titled compound was prepared substantially in accordance with the method detailed in Example 11 using 2.00 g (0.00869 mol) of 2-amino-N-[2-(1H-imidazol-2-yl)-ethyl]benzamide, prepared as in Example 6A, and 3.62 g (0.01738 mol) of p-trifluoromethylbenzoyl chloride with the exception that removal of ethyl acetate provided a solid. This solid was recrystallized from ethyl acetate containing a small amount of methanol to provide 3.00 g of the desired titled compound (m.p. 207°-215° C.).

reactant | 2-amino-N-[2-(1H-imidazol-2-yl)-ethyl]benzamide | 0.00869 mol, 2.00 g | NC1=C(C(=O)NCCC=2NC=CN2)C=CC=C1 | C12H14N4O
reactant | p-trifluoromethylbenzoyl chloride | 0.01738 mol, 3.62 g | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(1H-Imidazol-2-yl)ethyl]-2-[[4-(trifluoromethyl)-benzoyl]amino]benzamide | 3.00 g | N1C(=NC=C1)CCNC(C1=C(C=CC=C1)NC(C1=CC=C(C=C1)C(F)(F)F)=O)=O | C20H17F3N4O2
